US07678803B2
5,7-Difluoro-quinazolin-4-ylamine
2,4,6-Trifluoro-benzonitrile (3.59 mmol, 500 mg) is dissolved in DMA (5 mL) and then formamidine acetate is added (3.59 mmol, 373.75 mg) followed by DIEA (10.78 mmol, 1.39 g). The reaction is stirred for 16 hr at 100° C. A solid forms, is collected by filtration and the solid is washed with CH2Cl2. This gives desired product 5,7-Difluoro-quinazolin-4-ylamine (227 mg, LC/MS m/z=182 [M+H]+) as a white powder.

reactant | 2,4,6-Trifluoro-benzonitrile | 3.59 mmol, 500 mg | FC1=C(C#N)C(=CC(=C1)F)F | C7H2F3N
reactant | formamidine acetate | C(C)(=O)O.C(=N)N
reactant | DIEA | 10.78 mmol, 1.39 g | CCN(C(C)C)C(C)C | C8H19N
solvent | DMA | 5 mL | CC(=O)N(C)C | C4H9NO
product | 5,7-Difluoro-quinazolin-4-ylamine | 227 mg | FC1=C2C(=NC=NC2=CC(=C1)F)N | C8H5F2N3
